US06326359B1
N-(trans-4-Aminocyclohexyl)benzylamine
A stirred solution of tert-butyl trans-4-(benzylamino)cyclohexylcarbamate (730 mg, 3.6 mmol) (preparation 26) in dichloromethane (20 ml) was saturated with hydrogen chloride gas. The reaction mixture was stirred at room temperature for 2 hr and the solvent removed under reduced pressure to give a residue which was triturated with diethyl ether. The resulting solid was dissolved in water and solid sodium hydrogen carbonate added. The aqueous mixture was then extracted with ethyl acetate followed by dichloromethane. The organic extracts were combined, the solvent removed under reduced pressure and the residue purified by column chromatography on silica gel eluting with a solvent system of dichloromethane:methanol:ammonia (95:5:0.5) to give the title compound (530 mg) as a gum.

reactant | tert-butyl trans-4-(benzylamino)cyclohexylcarbamate | 3.6 mmol, 730 mg | C(C1=CC=CC=C1)N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C18H28N2O2
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-(trans-4-Aminocyclohexyl)benzylamine | 530 mg | N[C@@H]1CC[C@H](CC1)NCC1=CC=CC=C1 | C13H20N2
